US06576645B1
a) 2-(4-Chlorophenyl)-1-(4-methoxyphenyl)ethanone
Anisole (13.9 g, 0.13 mol) is added to a stirred solution of 4-chlorophenylacetic acid (20.0 g, 0.12 mol) in trifluoroacetic anhydride (16.5 ml, 0.12 mol). The mixture is stirred in room temperature for 24 h. Ice water is added and the crystallized product is collected on a sinter and washed with water. The product is recrystallized from ethanol. The yield is 20.4 g, 67%.

reactant | Anisole | 0.13 mol, 13.9 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-chlorophenylacetic acid | 0.12 mol, 20.0 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | trifluoroacetic anhydride | 0.12 mol, 16.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-(4-Chlorophenyl)-1-(4-methoxyphenyl)ethanone | ClC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OC | C15H13ClO2
